US06265416B1
Preparation of 1-[2-Methoxy-4-(1-pyrrolidinylcarbonyl)-benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-5-azaindole Oxalate.
Powdered KOH (730 mg, 13.0 mmol) was added to 25 mL of DMSO at ambient temperature. After 10 min, 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-5-azaindole (2.0 g, 6.5 mmol) was added. After 45 min, a solution of methyl 4-bromo-methyl-2-methoxybenzoate (1.69 g, 6.5 mmol) in 10 mL of DMSO was added dropwise via cannula. The resulting mixture was stirred overnight then poured into 100 mL of H2O. The aqueous solution was extracted with EtOAc (3×100 mL). The combined organic layers were dried over K2CO3, filtered and concentrated in vacuo. Purification of the crude residue by radial chromatography (SiO2; gradient of 0-2% MeOH/CHCl3, saturated with NH4OH) afforded 550 mg (1.13 mmol, 17%) of the title compound.

reactant | KOH | 13.0 mmol, 730 mg | [OH-].[K+]
reactant | 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-5-azaindole | 6.5 mmol, 2.0 g | N1(CCCC1)CCOC1=CC=C(C=C1)C=1NC2=CC=NC=C2C1 | C19H21N3O
reactant | methyl 4-bromo-methyl-2-methoxybenzoate | 6.5 mmol, 1.69 g | BrC1=C(C(=C(C(=O)OC)C=C1)OC)C | C10H11BrO3
reactant | H2O | 100 mL | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | 1-[2-Methoxy-4-(1-pyrrolidinylcarbonyl)-benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-5-azaindole Oxalate | 1.13 mmol, 550 mg, 17% | C(C(=O)O)(=O)O.COC1=C(CN2C(=CC3=CN=CC=C23)C2=CC=C(C=C2)OCCN2CCCC2)C=CC(=C1)C(=O)N1CCCC1 | InChI=1S/C32H36N4O3.C2H2O4/c1-38-31-21-25(32(37)35-16-4-5-17-35)6-7-26(31)23-36-29-12-13-33-22-27(29)20-30(36)24-8-10-28(11-9-24)39-19-18-34-14-2-3-15-34;3-1(4)2(5)6/h6-13,20-22H,2-5,14-19,23H2,1H3;(H,3,4)(H,5,6)
